Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Codeine / latex
 
Attending: ___
 
Chief Complaint:
Confusion; ? TIA
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ yo female with a PMHx of hypothyroidism,
HTN, primary biliary cirrhosis, and remote hx of breast cancer
who was brought to the ED for evaluation of an episode of
confusion earlier today; Neurology consulted for further workup.

Patient states that she was in her USOH this morning; 
babysitting
her grandchildren.  She was at home around 5 ___ with her son and
grandchildren when she started to feel "woozy". She stuck her
head between her legs and rested for a few minutes. Her son
brought her some water and gatorade and within a few minutes she
was feeling a little better.  Her son thought she was improved 
so
he went to take a shower.  When he returned around 530, the
patient was reportedly acting confused.  The son isn't present 
at
this time, but the patient's husband is, who spoke to him over
the phone and arrived ___ minutes later.  

Patient was reportedly asking questions repetitively and seemed
to have forgotten some recent events; specifically, she had just
spoken to her husband on the phone less than a couple hours
before.  She also forgot that she had put s pot of hot water 
with
pasta on the stove.  She repetitively asked is she should take 
an
Aspirin and if her son was going to call an ambulance.  Her
speech was not reportedly dysarthric at this time and sentences
were coherent; the patient just seemed confused.  There was no
focal weakness or report of sensory change at that time.  She 
did
not have any witnessed LOC.  She herself recalls the preceding
dizzy spell, but then does not recall being confused or asking
questions repetitively to her son.  She vaguely recalls her son
calling her husband and him arriving. She was able to get up and
got the bathroom by herself at this time.  Her memory of the
events starts to become more clear as the hour passed and she
distinctly remembers EMS arriving and bringing her to the
hospital.  Her husband thinks it took her about a full 2 hours 
to
completely start acting herself, but she has had no further
episodes since being in the ED.  She has never experienced
anything like this before.  

During the preceding episode of dizziness, patient denies 
feeling
sweaty, developing tunnel vision, or changes in hearing.  She
felt lightheaded but denies vertigo.  Patient does endorse 
having
a slight headache earlier in the day.  It was not severe, but
recalls it being a somewhat sharp pain on the ride side of her
head, lasting ___ minutes, and self resolving.  There was no
associated N/V, vision changes, photophobia/phonophobia, or neck
pain.  She reports one other similar headache the evening before
as well.  She recalls them because she does not usually get
headaches.  

On neurologic review of systems, the patient denies difficulty
with producing or comprehending speech. Denies loss of vision,
blurred vision, diplopia, vertigo, tinnitus, hearing difficulty
or dysarthria. Denies focal muscle weakness, numbness,
parasthesia. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath.  Denies chest pain or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No dysuria.  
 
Past Medical History:
ARTERIAL STENOSIS - CELIAC ARTERY                               
ECZEMA                                                          
G-34                                                            
HYPOTHYROIDISM                                                  
OSTEOPOROSIS                                                    
PRIMARY BILIARY CIRRHOSIS                                       
VITAMIN D INSUFFICIENCY                                         
INTERNAL HEMORRHOIDS                                            
HYPERPLASTIC COLON POLYPS                                       
VITAMIN D INSUFFICIENCY                                         
IPMN                                                            
HYPERTENSION                                                    
H/O BREAST CANCER ___ L LUMPECT XRT, NO RECURRENCE
 
Social History:
___
Family History:
Relative  Status    Age Problem              Comments           
Mother    ___  ___  BLADDER CANCER                          

Father    ___  ___  LUNG CANCER       HYPOTHYROIDISM         


                        COLON POLYPS                            

Sister    Living    ___  DIABETES TYPE I                         
                        COLON POLYPS                            

MGF       Deceased                                              

MGM       Deceased                                              

PGF       Deceased      COLON POLYPS                            

PGM       Deceased                                              

Comments: 3 sisters with hypothyroidism.  No FHx of seizures or
strokes. 
 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM
=========================
Vitals: T: 97.9F P:68  R: 16  BP: 156/73  SaO2: 99% RA
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 5 to 3 mm. EOMI without nystagmus. VFF
to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
   Delt Bic Tri WrE Grip FE IP Quad Ham TA Gastroc 
 L  5    ___   ___  5   5    5     5         
 R  5    ___   ___  5   5    5     5          

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. 

-DTRs:
   Bi Tri ___ Pat Ach
 L  3  2    2    2   2
 R  3  2    2    2   2
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

=========================
DISCHARGE PHYSICAL EXAM
=========================
Normal and non-focal neurological exam.
 
Pertinent Results:
=======
LABS
=======
___ 12:50PM BLOOD ___ PTT-37.8* ___
___ 07:24AM BLOOD WBC-5.9 RBC-4.25 Hgb-13.0 Hct-40.0 MCV-94 
MCH-30.6 MCHC-32.5 RDW-13.8 RDWSD-47.5* Plt ___
___ 12:50PM BLOOD Glucose-93 UreaN-13 Creat-0.7 Na-138 
K-4.1 Cl-101 HCO3-29 AnGap-12
___ 07:35PM BLOOD ALT-34 AST-42* AlkPhos-122* TotBili-0.3
___ 07:35PM BLOOD cTropnT-<0.01
___ 07:40AM BLOOD Cholest-196
___ 07:40AM BLOOD %HbA1c-5.2 eAG-103
___ 07:40AM BLOOD Triglyc-128 HDL-80 CHOL/HD-2.5 LDLcalc-90
___ 07:35PM BLOOD TSH-3.7
___ 07:35PM BLOOD T4-13.1*
___ 07:20PM BLOOD CRP-2.5
___ 08:30PM URINE Color-Straw Appear-Clear Sp ___
___ 08:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 08:30PM URINE RBC-<1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-0 TransE-<1

URINE CULTURE (Final ___:    NO GROWTH. 

==========
IMAGING
==========
NCHCT (___):
No acute intracranial abnormality on noncontrast head CT.  
Specifically no
large territory infarct or intracranial hemorrhage.

EEG (___):
This is a normal EEG, awake and drowsy. Stage 2 sleep is not 
recorded. No focal abnormalities or epileptiform discharges are 
present. If
clinically indicated, repeat EEG with sleep recording may 
provide additional information.

ECHO (___):
Presence of atrial septal defect or stretched patent foramen 
ovale suggested. Normal biventricular cavity sizes with 
preserved global and regional biventricular systolic function.

LOWER EXTREMITY ULTRASOUND (___):
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

MRI/A HEAD AND NECK WITH AND WITHOUT CONTRAST (___):
1. Three punctate acute infarcts involving bilateral para 
hippocampal gyri and the left crus of fornix.
2. Unremarkable head and neck MRA.

MRV PELVIS WITH AND WITHOUT CONTRAST (___):
1. No filling defect to suggest an acute thrombus.
2. Findings of hepatic cirrhosis, with hypertrophy of the left 
hepatic lobe. 
The study is not tailored for the assessment of hepatocellular 
carcinoma.
3. Stable side-branch IPMN within the uncinate process when 
compared to the
MRI dated ___.
 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman with a past medical history 
of hypothyroidism, hypertension, primary biliary cirrhosis, and 
a remote history of breast cancer who was brought to the ED for 
evaluation of an episode of confusion that lasted for 2 hours 
and was preceded by lightheadedness without any other associated 
pre-syncopal epsidoes (no nausea, tunnel vision, sweating, 
palpitations etc.) 

# NEUROLOGY
Patient had returned to her baseline by time of admission. MRI 
of the brain revealed punctate acute infarcts involving 
bilateral para hippocampal gyri and the left crus of fornix. 
Infarcts were felt to appear embolic; however, pt did not have 
any history of atrial fibrillation or any atrial fibrillation 
while on telemetry. Echocardiogram showed an atrial septal 
defect (with otherwise normal biventricular cavity sizes with 
preserved global and regional biventricular systolic function). 
Lower extremity ultrasound and MRV of the pelvis did not reveal 
a venous thrombosis. A hypercoagulable panel was sent at 
discharge (pending, PCP ___. A1C was 5.2% and LDL was 90.

For treatment, pt was considered an aspirin failure so aspirin 
was switched to Plavix. A ___ of Hearts monitor was ordered at 
discharge. Apixaban was considered; however, insurance prior 
authorization was pending at discharge (to be followed up). 

Of note, pt also had an EEG given the unclear nature of her 
episode at presentation; this was normal.

# ENDOCRINE
TSH was normal but free T4 was 13.1. Pt will need to have 
outpatient thyroid function labs for continued monitoring.

=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed () No
2. DVT Prophylaxis administered? (X) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No
4. LDL documented? (X) Yes (LDL = 90) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (X) No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No
9. Discharged on statin therapy? () Yes - (X) No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (X) N/A

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN 
3. Colchicine 0.6 mg PO BID 
4. Levothyroxine Sodium 137 mcg PO DAILY 
5. Ursodiol 600 mg PO BID 
6. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY 
7. Loratadine 10 mg PO DAILY:PRN allergy symptoms 

 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
3.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY  
4.  Colchicine 0.6 mg PO BID  
5.  Levothyroxine Sodium 137 mcg PO DAILY  
6.  Loratadine 10 mg PO DAILY:PRN allergy symptoms  
7.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN  
8.  Ursodiol 600 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cryptogenic ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of memory loss resulting 
from an ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. 

Your risk factors are:
- Patent foramen ovale (PFO)

Your blood pressure, glucose, and cholesterol were at goal 
during your hospitalization.

We are changing your medications as follows:
- STOPPING aspirin 81mg daily
- STARTING Plavix 75mg daily

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician. 
You will need ___ OF HEARTS cardiac monitor placed as an 
outpatient to evaluate for paroxysmal atrial fibrillation; 
please call ___ to schedule this test.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___